US06458798B1
N-(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)-N-butylamine
A mixture of 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine (100 mg, 0.545 mmol) and butylamine (2 ml) was stirred for 4 hours at 90° C. The reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with saturated brine, dried over sodium sulfate, filtered and the solvent in the filtrate was removed in vacuo. The residue was purified by column chromatography (10% MeOH/CHCl3) to give the object compound (94.5 mg, 78.9%).

reactant | 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine | 0.545 mmol, 100 mg | ClC1=NC(=NC=2CCCCC12)N | C8H10ClN3
reactant | butylamine | 2 ml | C(CCC)N | C4H11N
solvent | water | O | H2O
product | N-(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)-N-butylamine | 94.5 mg, 78.9% | NC1=NC=2CCCCC2C(=N1)NCCCC | C12H20N4
